US08871756B2
1-[4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]ethanol
To a cooled solution of 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinoline-6-carbaldehyde (100 mg, 0.26 mmol) in tetrahydrofuran (20 mL) was added a solution of methyl magnesium bromide in tetrahydrofuran (0.13 mL, 0.39 mmol, 3 M) at 0° C. dropwise. After being stirred for 20 minutes at the temperature below 12° C., the mixture was concentrated in vacuo. The residue was purified by preparative TLC to give 100 mg of the desired product (yield was 96%).

reactant | 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-quinoline-6-carbaldehyde | 0.26 mmol, 100 mg | ClC1=CC(=NC2=CC=C(C=C12)C=O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H15ClN2O3S
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.39 mmol, 3 M, 0.13 mL | O1CCCC1 | C4H8O
product | 1-[4-Chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-yl]ethanol | 100 mg, yield was 96% | ClC1=CC(=NC2=CC=C(C=C12)C(C)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O3S
